US09334278B2
To a solution of N-tert-butyl-2-(5-(methylsulfonyl)pyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (125 mg, 241 mol) in dichloromethane was added trifluoroacetic acid (550 mg, 371 μL, 4.82 mmol) and the mixture stirred at room temperature for 16 h. The mixture was concentrated then re-dissolved in dichloromethane (3.7 mL), methanol (1.6 mL) and ammonium hydroxide (0.5 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated in vacuo then triturated with water and filtered. The solid obtained was washed with ether then dried to give N-tert-butyl-2-(5-(methylsulfonyl)pyridin-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (92 mg, 237 mol, 98%) as a yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.38 (s, 1H), 9.90 (s, 1H), 9.40 (d, J=2.5, 1 H), 8.55 (d, J=1.9, 1 H), 8.06 (t, J=2.2, 1H), 8.01 (s, 1H), 7.96 (s, 1H), 7.54 (s, 1H), 3.22 (s, 3H), 1.31 (s, 9H); MS (EI/CI) m/z: 389.1 [M+H].

reactant | N-tert-butyl-2-(5-(methylsulfonyl)pyridin-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 241 mol, 125 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NC=C(C2)S(=O)(=O)C)COCC[Si](C)(C)C | C23H34N6O4SSi
reactant | trifluoroacetic acid | 4.82 mmol, 371 μL, 550 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-tert-butyl-2-(5-(methylsulfonyl)pyridin-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 237 mol, 92 mg, 98% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC=2C=NC=C(C2)S(=O)(=O)C | C17H20N6O3S
